US08389720B2
3-{[(1-benzyl-3-methylpyrrolidin-3-yl)amino]methyl}-1-methylquinolin-2(1H)-one
1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde (956 mg, 5.11 mmol), 1-benzyl-3-methylpyrrolidin-3-amine (972 mg, 5.11 mmol), and acetic acid (0.877 ml, 15.32 mmol) were combined in CH2Cl2 (25 ml) and stirred for 30 min. Sodium triacetoxyborohydride (3248 mg, 15.32 mmol) was added and the reaction stirred for 2.5 hours before being partitioned between CH2Cl2 and satd. bicarb. The aqueous portion was extracted 3×CH2Cl2, and the organic portion dried (Na2SO4) then concentrated in vacuo. The resulting material was carried on crude.

reactant | 1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde | 5.11 mmol, 956 mg | CN1C(C(=CC2=CC=CC=C12)C=O)=O | C11H9NO2
reactant | 1-benzyl-3-methylpyrrolidin-3-amine | 5.11 mmol, 972 mg | C(C1=CC=CC=C1)N1CC(CC1)(N)C | C12H18N2
reactant | acetic acid | 15.32 mmol, 0.877 ml | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 15.32 mmol, 3248 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-{[(1-benzyl-3-methylpyrrolidin-3-yl)amino]methyl}-1-methylquinolin-2(1H)-one | C(C1=CC=CC=C1)N1CC(CC1)(C)NCC=1C(N(C2=CC=CC=C2C1)C)=O | C23H27N3O
